US05663053
4,5-Bis(4-methoxyphenyl)imidazole (1.8 g) (J. Med. Chem., 1974, 17, 1182-8) and ethyl 8-bromooctanoate (3.2 g) were reacted in a method similar to Example 9. Colnmn chromatography on silica gel eluted with a dichloro-methane:ethanol gradient gave 1-(7-ethoxycarbonyl-heptyl)- 4,5-bis(4-methoxyphenyl)imidazole (2.42 g, 83%) as an oil. Found: C, 72.30; H, 7.72; N, 6.21%; C27H34N20 4 requires: C, 71.97; H, 7.61; N, 6.22%.

reactant | 4,5-Bis(4-methoxyphenyl)imidazole | 1.8 g | COC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)OC | C17H16N2O2
reactant | ethyl 8-bromooctanoate | 3.2 g | BrCCCCCCCC(=O)OCC | C10H19BrO2
product | 1-(7-ethoxycarbonyl-heptyl)- 4,5-bis(4-methoxyphenyl)imidazole | 2.42 g, 83% | C(C)OC(=O)CCCCCCCN1C=NC(=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C27H34N2O4
